US07897619B2
To a solution of (S)-tert-butyl 1-phenylbut-3-yn-2-ylcarbamate (0.16 g, 0.65 mmol) in 6 mL of Et3N in a sealable tube were added 6-(5-iodoisoxazol-3-yl)isoquinoline (0.18 g, 0.54 mmol), bis(triphenylphosphine)palladium(II) dichloride (0.019 g, 0.027 mmol), and copper(I) iodide (0.016 g, 0.082 mmol). The tube was sealed and heated to 65° C. for 12 hours. The solvent was removed under reduced pressure and the residue was purified by flash chromatography on silica gel, affording tert-butyl(S)-4-(3-(isoquinolin-6-yl)isoxazol-5-yl)-1-phenylbut-3-yn-2-ylcarbamate (0.12 g, 50% yield) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 9.30 (s, 1H), 8.63-8.57 (m, 1H), 8.20-8.17 (m, 1H), 8.09-8.03 (m, 2H), 7.73-7.69 (m, 1H), 7.39-7.27 (m, 5H), 6.81 (s, 1H), 5.05-4.94 (m, 1H), 4.86-4.74 (m, 1H), 3.17-3.03 (m, 2H), 1.46 (s, 9H).

reactant | (S)-tert-butyl 1-phenylbut-3-yn-2-ylcarbamate | 0.65 mmol, 0.16 g | C1(=CC=CC=C1)C[C@@H](C#C)NC(OC(C)(C)C)=O | C15H19NO2
reactant | 6-(5-iodoisoxazol-3-yl)isoquinoline | 0.54 mmol, 0.18 g | IC1=CC(=NO1)C=1C=C2C=CN=CC2=CC1 | C12H7IN2O
solvent | Et3N | 6 mL | CCN(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.027 mmol, 0.019 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.082 mmol, 0.016 g | [Cu]I
product | tert-butyl(S)-4-(3-(isoquinolin-6-yl)isoxazol-5-yl)-1-phenylbut-3-yn-2-ylcarbamate | 0.12 g, 50% yield | C1=NC=CC2=CC(=CC=C12)C1=NOC(=C1)C#C[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C27H25N3O3
